US04922021
5.0 g (19.5 mmoles) of 1-(2,6-dichlorophenyl-amino)-2-propanol hydrochloride are added in small portions to 50 ml of dry pyridine, and then 3.1 ml (4.6 g, 40 mmoles) of methanesulfonyl chloride are added dropwise, within 0.5 hours, to the mixture at 15° C. The mixture is stirred at room temperature for one hour, then further 0.8 ml (1.2 g, 10 mmoles) of methanesulfonyl chloride are added, and stirring is continued for one hour. The mixture is poured then onto 100 ml of ice water, and the aqueous mixture is extracted thrice with 70 ml of 1,2-dichloroethane, each. The dichloroethane solutions are combined, washed thrice with 50 ml of water, each, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. 5.52 g (79.5%) of 1-(2,6-dichlorophenyl-amino)-2-methanesulfonyloxy-propane are obtained as a dark yellow oil; this substance can be utilized in the subsequent reaction without purification.

reactant | 1-(2,6-dichlorophenyl-amino)-2-propanol hydrochloride | 19.5 mmoles, 5.0 g | Cl.ClC1=C(C(=CC=C1)Cl)NCC(C)O
reactant | methanesulfonyl chloride | 40 mmoles, 3.1 ml, 4.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 10 mmoles, 0.8 ml, 1.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-(2,6-dichlorophenyl-amino)-2-methanesulfonyloxy-propane | 5.52 g, 79.5% | ClC1=C(C(=CC=C1)Cl)NCC(C)OS(=O)(=O)C | C10H13Cl2NO3S
